US04661502
3-Dimethylcarbamoyloxypyridine (1.66 g) and chloromethylhexanoate (2.0 g) were heated to 90° C. with stirring for 3 hours. The reaction mixture was treated in a similar manner as described in Example 1 to give 2.65 g of 3-(dimethylcarbamoyloxy)-1-(hexanoyloxymethyl)-pyridinium chloride as colorless powdery crystals. It was impossible to precisely measure the melting point because of high hygroscopicity. The structure was determined by N.M.R.

reactant | 3-Dimethylcarbamoyloxypyridine | 1.66 g | CN(C(=O)OC=1C=NC=CC1)C | C8H10N2O2
reactant | chloromethylhexanoate | 2.0 g | ClCOC(CCCCC)=O | C7H13ClO2
product | 3-(dimethylcarbamoyloxy)-1-(hexanoyloxymethyl)-pyridinium chloride | 2.65 g | [Cl-].CN(C(=O)OC=1C=[N+](C=CC1)COC(CCCCC)=O)C | InChI=1S/C15H23N2O4.ClH/c1-4-5-6-9-14(18)20-12-17-10-7-8-13(11-17)21-15(19)16(2)3;/h7-8,10-11H,4-6,9,12H2,1-3H3;1H/q+1;/p-1
